US04072696
2.1 G. 1,2-diamino-4-phenylsulfinylbenzene in 150 ml. acetone is treated with 6 g. methoxy carbonyl isothiocyanate overnight at 20°-25° C. The reaction mixture is stripped and the residue triturated with ether. Recrystallization from methanol yields pure 1,2-bis-(3-methoxycarbonyl-2-thioureido)- 4-phenylsulfinylbenzene.

reactant | 1,2-diamino-4-phenylsulfinylbenzene | NC1=C(C=C(C=C1)S(=O)C1=CC=CC=C1)N | C12H12N2OS
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 1,2-bis-(3-methoxycarbonyl-2-thioureido)- 4-phenylsulfinylbenzene | COC(=O)NC(NC1=C(C=C(C=C1)S(=O)C1=CC=CC=C1)NC(=S)NC(=O)OC)=S | C18H18N4O5S3
